US04572909
Preparation of 2-[(2-aminoethoxy)methyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine maleate
2-Azidoethanol (3 g) was converted to ethyl 4-(2-azidoethoxy)acetoacetate similarly to the method described in Preparation 3 hereinafter using ethyl 4-chloroacetoacetate, and the crude ketoester (not characterised) was used in the Hantzsch reaction using the method described in Preparation 9, i.e. by reacting it with methyl 3-aminocrotonate and 2-chlorobenzaldehyde. The crude Hantzsch product (not characterised) dissolved in methanol (250 ml) and 3N hydrochloric acid (200 ml) was stirred on a water bath at room temperature while zinc dust (15 g) was added portionwise over 10 minutes. After stirring a further 10 minutes the solution was decanted from excess zinc, the methanol evaporated and the aqueous acid residue washed with toluene (100 ml), basified with concentrated ammonia and extracted with methylene chloride (2×100 ml). The extracts were dried (Na2CO3), filtered and evaporated to dryness. The residue in toluene was chromatographed on a medium pressure column of silica (T.L.C. grade, Merck "Kieselgel" [Trade Mark] 60H, 7 g) eluting initially with toluene, changing gradually to methylene chloride and then to methylene chloride plus 3% methanol. Appropriate fractions were combined and converted to the maleate salt in ethyl acetate. Recrystallisation from acetone and ethyl acetate (1:1) gave the title compound (maleate salt) (190 mg, 1% yield from 2-azido ethanol) as a white solid, m.p. 169°, identical by t.l.c. with the product obtained in Example 9.

reactant | 2-Azidoethanol | 3 g | N(=[N+]=[N-])CCO | C2H5N3O
reactant | ethyl 4-(2-azidoethoxy)acetoacetate | N(=[N+]=[N-])CCOCC(CC(=O)OCC)=O | C8H13N3O4
reactant | ethyl 4-chloroacetoacetate | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | methyl 3-aminocrotonate | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | hydrochloric acid | 3N, 200 ml | Cl | ClH
solvent | methanol | 250 ml | CO | CH4O
catalyst | zinc | 15 g | [Zn] | Zn
product | 2-[(2-aminoethoxy)methyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine maleate | 190 mg, 1% yield | C(\C=C/C(=O)O)(=O)O.NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | InChI=1S/C20H25ClN2O5.C4H4O4/c1-4-28-20(25)18-15(11-27-10-9-22)23-12(2)16(19(24)26-3)17(18)13-7-5-6-8-14(13)21;5-3(6)1-2-4(7)8/h5-8,17,23H,4,9-11,22H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
